US08258175B2
3-Chloro-2-(4-chlorobenzyl)-3-(4-chlorophenyl) isoindolin-1-one (157 mg, 0.390 mmol) was reacted with 1,3-cyclopentanediol (0.18 mL, 1.95 mmol.) as for general procedure C and the solvent evaporated under vacuum to leave a clear oil of crude 2-(4-chlorobenzyl)-3-(4-chlorophenyl)-3-(3-hydroxycyclopentyloxy)isoindolin-1-one. This was purified by HPLC to give the pure product which was a clear glass (83 mg, 0.177 mmol., 45%). Rf 0.08 (40:60 EtOAc:petrol). λmax (CH3OH)/nm=220.5 (Abs=1.333). IR: 3426, 2935, 1696, 1695, 1597, 1489, 1467 cm−1. 1H NMR (300 Hz, DMSO); δ1.03-1.86 (m, 6H, cyclopentanediol C—H), 2.02 (m, 1H, N—CH2), 3.48-3.75 (M, 1H, N—CH2), 4.00-4.50 (m, 2H, cyclopentanediol O—C—H), 6.66-7.15 (m, 9H, Ar—H), 7.32-7.53 (m, 2H, Ar—H), 7.83 (m, 1H, Ar—H). 13C NMR (75 Hz, DMSO); δ 31.4 (N—CH2), 32.1, 33.8, 34.0, 42.9, 44.1 (cyclopentanediol), 95.0 (Ar2C(O)—N), 72.1, 73.0 (cyclopentanediol C—OH), 124.0, 124.3, 128.5, 128.6, 130.2, 130.8, 130.8, 132.7 (Ar). LC/MS-ES+ m/z 470.3, 468.3, 245.1, 243.1. Anal. Calcd. for C26H23Cl2NO3.0.4H2O: C, 65.66; H, 5.04; N, 2.95%. Found C, 65.49; H, 4.94; N, 3.02%. HRMS (EI) m/z: 467.1055. Found 467.1055.

reactant | 3-Chloro-2-(4-chlorobenzyl)-3-(4-chlorophenyl) isoindolin-1-one | 0.390 mmol, 157 mg | ClC1(N(C(C2=CC=CC=C12)=O)CC1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl | C21H14Cl3NO
reactant | 1,3-cyclopentanediol | 1.95 mmol, 0.18 mL | C1(CC(CC1)O)O | C5H10O2
product | 2-(4-chlorobenzyl)-3-(4-chlorophenyl)-3-(3-hydroxycyclopentyloxy)isoindolin-1-one | ClC1=CC=C(CN2C(C3=CC=CC=C3C2(OC2CC(CC2)O)C2=CC=C(C=C2)Cl)=O)C=C1 | C26H23Cl2NO3
